US05731322
(±)-trans-Dipropylaminocarbonyl-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline
0.56 g (1.15 mmol) of (±)-trans-dipropylaminocarbonyl-6-ethyl-3-methyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride were treated with 0.65 ml (7 mmol) of boron tribromide as described in example 2. The residue was purified by flash chromatography (AcOEt/MeOH/conc. NH4OH 75:25:2.5). The crude product was crystallised from acetone yielding 0.075 g of the title compound. M.p.=151°-153° C.

reactant | (±)-trans-dipropylaminocarbonyl-6-ethyl-3-methyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | 1.15 mmol, 0.56 g | Cl.C(CC)N(C(=O)N1C=C(C2=C1C[C@@]1(CCN(C[C@H]1C2)CC)C2=CC(=CC=C2)OC)C)CCC
reactant | boron tribromide | 7 mmol, 0.65 ml | B(Br)(Br)Br | BBr3
product | (±)-trans-Dipropylaminocarbonyl-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | C(CC)N(C(=O)N1C=C(C2=C1C[C@@]1(CCN(C[C@H]1C2)CC)C2=CC(=CC=C2)O)C)CCC | C27H39N3O2
